US04900751
(a) N-[(3,4-Dimethoxyphenyl)ethyl]-2-methylthio benzamide
2-(3,4-Dimethoxyphenyl)ethylamine (4.8 ml), poly(4-vinylpyridine) (PVP) (5.7 g) and 2-methylthiobenzoyl chloride (5.3 g) were stirred in dichloromethane (50 ml) with cooling in a water bath at 20° for one night. The PVP was filtered off and washed with CHCl3. Evaporation of the extracts followed by flash chromatography (ethyl acetate/petroleum ether) gave the sub-title compound, mp 94°-95°.

reactant | 2-(3,4-Dimethoxyphenyl)ethylamine | 4.8 ml | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | 2-methylthiobenzoyl chloride | 5.3 g | CC1=C(C(=S)Cl)C=CC=C1 | C8H7ClS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-[(3,4-Dimethoxyphenyl)ethyl]-2-methylthio benzamide | COC=1C=C(C=CC1OC)CCNC(C1=C(C=CC=C1)C)=S | C18H21NO2S
